US07587113B2
[Synthesis of 2-(3-oxetanyl)butyltosylate]
To a 2000-ml three-necked flask including a thermometer, a condenser, a stirrer and a dropping funnel were added 190.65 g (1.0 mol) of p-toluenesulfonic acid chloride, 32.24 g (0.1 mol) of tetramethylammonium bromide and 400 ml of toluene, which in turn were cooled down to 5° C. while being stirred in an ice bath. After 116.16 g (1.0 mmol) of 3-ethyl-hydroxymethyl-oxetane was added to the mixture, 130 ml of 35% by weight of a sodium hydroxide aqueous solution was dropped from the dropping funnel over 30 minutes. After the completion of the dropping, the above-mentioned flask was stirred at the same temperature for one hour, and was further stirred at room temperature (25° C.) for 16 hours. After the completion of a reaction, 800 ml of water was added into the above-mentioned flask, and was stirred violently. Thereafter, the resultant mixture was allowed to stand until the mixture separated into an aqueous phase and an organic phase. The organic phase was further cleaned with 400 ml of water, and was dried overnight with anhydrous magnesium sulfate. Thereafter, magnesium sulfate was filtered off, and the filtrate was concentrated. A crude product thus obtained was separated and purified by silica gel column chromatography (an eluate: hexane/ethyl acetate) to synthesize 243.3 g (in a yield of 90%) of 2-(3-oxetanyl)butyltosylate which was an intended colorless liquid.

reactant | p-toluenesulfonic acid chloride | 1.0 mol, 190.65 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
reactant | 3-ethyl-hydroxymethyl-oxetane | 1.0 mmol, 116.16 g | C(C)C1C(OC1)CO | C6H12O2
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | tetramethylammonium bromide | 0.1 mol, 32.24 g | [Br-].C[N+](C)(C)C
solvent | water | 800 ml | O | H2O
product | 2-(3-oxetanyl)butyltosylate | yield of 90% | O1CC(C1)C(COS(=O)(=O)C1=CC=C(C)C=C1)CC | C14H20O4S
